US06420364B1
4-Acetylamino-N-[1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-benzamide
4-Acetamidobenzoic acid (353 mg, 1.98 mmol), EDC (378 mg, 1.98 mmol), and HOBT (268 mg, 1.98 mmol) were combined in 15 mL of DMF and stirred for 20 min. Solid [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amine hydrochloride (625 mg, 1.98 mmol) was added. The reaction was stirred for 16 hours. The volatiles were removed with a pump and the resulting residue was triturated, with rapid stirring, with 250 mL of saturated aqueous sodium bicarbonate. The resulting solid was collected by filtration and washed with 250 mL of water. The solid was dried in vacuo to give the title compound (250 mg); MS, ml/z 441=M+1.

reactant | 4-Acetamidobenzoic acid | 1.98 mmol, 353 mg | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
reactant | EDC | 1.98 mmol, 378 mg
reactant | HOBT | 1.98 mmol, 268 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-amine hydrochloride | 1.98 mmol, 625 mg | Cl.C(#N)C1(CCOCC1)NC(=O)C(CC1CCCCC1)N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-Acetylamino-N-[1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-2-cyclohexyl-ethyl]-benzamide | 250 mg | C(C)(=O)NC1=CC=C(C(=O)NC(CC2CCCCC2)C(NC2(CCOCC2)C#N)=O)C=C1 | C24H32N4O4
